US03962227
To a solution of 965 mg. (2 mmole) of p-nitrobenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate in 10 ml. of methylene chloride were added 175 mg of dry pyridine and 460 mg. of phosphorus pentachloride and the mixture was stirred at room temperature for 6 hours. One ml. of isobutanol was added to the mixture which was then stored at 0°C. overnight. The reaction product, p-nitrobenzyl 7-amino-3-methylenecepham-4-carboxylate hydrochloride, which formed as a crystalline precipitate was filtered to yield 430 mg. (58% yield).

reactant | p-nitrobenzyl 7-phenoxyacetamido-3-methylenecepham-4-carboxylate | 2 mmole | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C23H21N3O7S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | pyridine | 175 mg | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | isobutanol | C(C(C)C)O | C4H10O
product | p-nitrobenzyl 7-amino-3-methylenecepham-4-carboxylate hydrochloride | 58% yield | Cl.NC1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | InChI=1S/C15H15N3O5S.ClH/c1-8-7-24-14-11(16)13(19)17(14)12(8)15(20)23-6-9-2-4-10(5-3-9)18(21)22;/h2-5,11-12,14H,1,6-7,16H2;1H/t11?,12?,14-;/m1./s1
